US05344843
As in Example 306, a solution of (Z)-alpha-(ethoxyimino)-5-[2-(2-naphthalenyloxy) ethoxy]-2-thiopheneacetic acid ethyl ester (0. 141 g) in methanol (2 mL) and tetrahydrofuran (1 mL) was treated with 4N sodium hydroxide (0.5 mL) and the stirred mixture was heated at 55° C. for 30 minutes. After the normal work up, the product was crystallized from ethyl acetate-hexane to furnish 0.07 g of (Z-alpha-(ethoxyimino)-5-[2-(2-naphthalenyloxy)ethoxy]-2-thiopheneacetic acid, mp 114° C. (dec.).

reactant | (Z)-alpha-(ethoxyimino)-5-[2-(2-naphthalenyloxy) ethoxy]-2-thiopheneacetic acid ethyl ester | 141 g | C(C)OC(/C(/C=1SC(=CC1)OCCOC1=CC2=CC=CC=C2C=C1)=N/OCC)=O | C22H23NO5S
reactant | sodium hydroxide | 4N, 0.5 mL | [OH-].[Na+]
solvent | methanol | 2 mL | CO | CH4O
solvent | tetrahydrofuran | 1 mL | O1CCCC1 | C4H8O
product | Z-alpha-(ethoxyimino)-5-[2-(2-naphthalenyloxy)ethoxy]-2-thiopheneacetic acid | C(C)O\N=C(\C(=O)O)/C=1SC(=CC1)OCCOC1=CC2=CC=CC=C2C=C1 | C20H19NO5S
